US04309443
4-{2-Carboethoxy-2-methylethenyl}phenylpropan-2-one
A mixture of 4-formylphenylpropan-2-one-2-ethylene acetal (3.11 g) and 1-carboethoxyethylidenetriphenylphosphorane (5.47 g) was refluxed in tetrahydrofuran under nitrogen for 1 h. The solvent was evaporated and the residue chromatographed on alumina (200 g). Elution with dichloromethane gave the title compound as the ethylene acetal (1.7 g). This was dissolved in ethanol-2 N hydrochloric acid and stirred at ambient temperature until tlc showed no acetal present. The aqueous was extracted with ether (3×50 ml) and the combined ether layers washed with water (×2), sodium bicarbonate solution, and dried (MgSO4). Removal of the solvent gave the title compound (1.05 g). τ(CDCl3) 8.7 (3H, t, 3=7 Hz), 7.92 (3H, s), 7.9 (3H, s), 6.35 (2H, s), 5.8 (2H, q, J=7 Hz), 2.8 (2H, d, J=8 Hz), 2.6 (2H, d, J=8 Hz), 2.35 (1H, broad s).

reactant | 4-formylphenylpropan-2-one-2-ethylene acetal | 3.11 g | C1COC(CC2=CC=C(C=C2)C=O)(C)O1 | C12H14O3
reactant | 1-carboethoxyethylidenetriphenylphosphorane | 5.47 g | C(=O)(OCC)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-{2-Carboethoxy-2-methylethenyl}phenylpropan-2-one | C(=O)(OCC)C(=CC1=CC=C(C=C1)CC(C)=O)C | C15H18O3
